US08431573B2
4-(4,4-Dimethylpiperidin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 430 mg (3.80 mmol) of 4,4-dimethylpiperidine to give 42 mg (34% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | 4,4-dimethylpiperidine | 3.80 mmol, 430 mg | CC1(CCNCC1)C | C7H15N
product | 4-(4,4-Dimethylpiperidin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | CC1(CCN(CC1)C=1N=C(NC(C1C#N)=O)CC1=CSC=C1)C | C17H20N4OS
